US06821965B1
4-methyl-N-(3-morpholinophenyl)-3-(6-quinolylcarbonylamino)benzamide
Using an analogous procedure to that described in Example 1, 6-quinolylcarbonyl chloride was reacted with 3-amino-4-methyl-N-(3-morpholinophenyl)benzamide to give the title compound; NMR Spectrum: (DMSOd6) 2.35 (s, 3H), 3.0-3.1 (m, 4H), 3.65-3.75 (m, 4H), 6.65-6.7 (m, 1H), 7.17 (t, 1H), 7.3-7.35 (m, 1H), 7.38-7.48 (m, 2H), 7.6-7.7 (m, 1H), 7.8-7.85 (m, 1H), 8.0 (s, 1H), 8.1-8.15 (m, 1H), 8.3-8.35 (m, 1H), 8.5-8.55 (m, 1H), 8.7 (s, 1H), 8.98-9.02 (m, 1H), 10.0-10.1 (br s, 1H), 10.25-10.35 (br s, 1H); Mass Spectrum: M+H+ 467.

reactant | 6-quinolylcarbonyl chloride | N1=CC=CC2=CC(=CC=C12)C(=O)Cl | C10H6ClNO
reactant | 3-amino-4-methyl-N-(3-morpholinophenyl)benzamide | NC=1C=C(C(=O)NC2=CC(=CC=C2)N2CCOCC2)C=CC1C | C18H21N3O2
product | 4-methyl-N-(3-morpholinophenyl)-3-(6-quinolylcarbonylamino)benzamide | CC1=C(C=C(C(=O)NC2=CC(=CC=C2)N2CCOCC2)C=C1)NC(=O)C=1C=C2C=CC=NC2=CC1 | C28H26N4O3
